US09315502B2
Intermediate K: 6-Bromo-3-(2,4-difluoro-phenyl)-imidazo[1,2-a]pyridine
The title compound, off-white solid (0.33 g, 49%), MS (ISP) m/z=309.4 [(M+H)+], mp 137.5° C., was prepared in accordance with the general method of intermediate E from commercially available 6-bromo-3-iodoimidazo[1,2-a]pyridine (0.7 g, 2.17 mmol) and commercially available 2,4-difluoro-phenylboronic acid (0.38 g, 2.38 mmol).

reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | 2.17 mmol, 0.7 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | 2,4-difluoro-phenylboronic acid | 2.38 mmol, 0.38 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 6-Bromo-3-(2,4-difluoro-phenyl)-imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)C2=C(C=C(C=C2)F)F | C13H7BrF2N2
